US07105567B2
By the reaction and treatment in the same manner as in Example 1 using [(4-dimethylaminophenyl)methyl](4-trifluoromethylphenyl)amine (1.0 g) and 2,6-diisopropylphenyl isocyanate (0.83 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(4-trifluoromethylphenyl)urea (0.23 g) was obtained. melting point: 129–130° C.

reactant | [(4-dimethylaminophenyl)methyl](4-trifluoromethylphenyl)amine | 1.0 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(F)(F)F)C | C16H17F3N2
reactant | 2,6-diisopropylphenyl isocyanate | 0.83 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(4-trifluoromethylphenyl)urea | 0.23 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)N(C)C)=O | C29H34F3N3O
